US07414140B2
Fluvastatin methyl ester (3.0 g) was dissolved in acetone (30 ml) and NaOH (0.29 g) partially dissolved in acetone (0.75 ml) was added. The mixture was stirred at room temperature overnight. The product was isolated by filtration under nitrogen, washed with acetone (40 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 2.31 g (76.2%) of fluvastatin sodium crystal Form I.

reactant | Fluvastatin methyl ester | 3.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 0.29 g | [OH-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 0.75 ml | CC(=O)C | C3H6O
product | fluvastatin sodium | 2.31 g, 76.2% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
